US08106070B2
Ammonium acetate (1.47 g, 19 mmol) was added to an ambient temperature solution of tert-butyl 2-{[(4,4-dimethyl-2-oxohexyl)amino]carbonyl}-2-[4-(5-fluoropyridin-2-yl)benzyl]pyrrolidine-1-carboxylate (200 mg, 0.38 mmol) in xylenes (10 mL). After stirring at 160° C. in a sealed tube overnight, the reaction mixture was diluted with ethyl acetate and water. The organic phase was dried (magnesium sulfate), filtered, and concentrated in vacuo. Chromatography over silica eluting with 0-100% ethyl acetate/hexane followed by high pressure liquid chromatography (KR100-5C18 100×21.2 mm column) eluting with 10-100% acetonitrile/water containing 0.05% trifluoroacetic acid afforded tert-butyl 2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-2-[4-(5-fluoropyridin-2-yl)benzyl]pyrrolidine-1-carboxylate.

reactant | Ammonium acetate | 19 mmol, 1.47 g | C(C)(=O)[O-].[NH4+]
reactant | tert-butyl 2-{[(4,4-dimethyl-2-oxohexyl)amino]carbonyl}-2-[4-(5-fluoropyridin-2-yl)benzyl]pyrrolidine-1-carboxylate | 0.38 mmol, 200 mg | CC(CC(CNC(=O)C1(N(CCC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=C1)F)=O)(CC)C | C30H40FN3O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-butyl 2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-2-[4-(5-fluoropyridin-2-yl)benzyl]pyrrolidine-1-carboxylate | CC(CC=1N=C(NC1)C1(N(CCC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C30H39FN4O2
